US04788185
7β-tert-Butoxycarbonylamino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
To 500 ml of dimethyl sulfoxide is added 200 g of 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid. To this 200 g of di-tert-butyl carbonate is added at room temperature and the mixture is stirred for 16 hours. To the reaction mixture are added 200 g of ice, 2 liters of water and 1 liter of ethyl acetate, and the mixture is stirred. After phase separation, the upper layer is discarded. To the aqueous layer is added 1 liter of ethyl acetate, and 129 g of phosphoric acid is added dropwise thereto while stirring (pH 4). After thorough mixing, the upper layer is separated and the lower layer is extracted with 1 liter of ethyl acetate. The organic layers are combined, washed with two 2-liter portions of ice-water and then with 1 liter of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated. To the residue is added 100 ml of methylene chloride, and the resulting mixture is concentrated and dried to give 194 g (74% yield) of the above-identified compound as a glassy solid.

reactant | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
reactant | 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 200 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | di-tert-butyl carbonate | 200 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | water | 2 liters | O | H2O
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 7β-tert-Butoxycarbonylamino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 194 g, 74% yield | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C17H22N2O8S
